US07582771B2
Synthesis of 4-(3-{5-Chloro-2-[2-(1,3-dioxo-1,3-dihydro-isoindol-2-yl)-ethyl]-1H-indol-3-yl}-propyl)-benzoic Acid Ethyl Ester
To a solution 4-(3-oxo-propyl)-)-benzoic acid ethyl ester (381 g, 1.85 mol), triethylsilane ((537 g, 4.62 mol) and 2-[2-(5-chloro-1 H-indol-2-yl)-ethyl]-isoindole-1,3-dione (500 g, 1.54 mol) in dichloromethane (4 L) was added trifloroacetic acid (878 g, 7.7 mol) during a period of 1 hour. Then, the reaction mixture was cooled to 0-10° C. A mixture of triethyl amine (778 g) and methanol (3 L) was added during a period of 45 min. The reaction mixture was stirred for 1 h at 0-10° C. and filtered. The crude product was washed with methanol (2×1000 mL) and dried to give a white solid (313 g) in 50% yield. 1H NMR (CDCl3): δ6.9-8.2 (m, Ph, CHPh2), 4.35 (dd, 2H, J=14.3 Hz, 7.2 Hz), 3.99 (t, 2H, J=7.1 Hz), 3.13 (t, 2H, J=7.2 Hz), 2.69 (t, 4H, J=7.3 Hz) 1.90 (m, 2H), 1.38 (t, 3H, J=7.1 Hz).

reactant | benzoic acid ethyl ester | 1.85 mol, 381 g | C(C)OC(C1=CC=CC=C1)=O | C9H10O2
reactant | triethylsilane | C(C)[SiH](CC)CC | C6H16Si
reactant | 2-[2-(5-chloro-1 H-indol-2-yl)-ethyl]-isoindole-1,3-dione | 1.54 mol, 500 g | ClC=1C=C2C=C(NC2=CC1)CCN1C(C2=CC=CC=C2C1=O)=O | C18H13ClN2O2
reactant | trifloroacetic acid | 7.7 mol, 878 g | FC(C(=O)O)(F)F | C2HF3O2
solvent | dichloromethane | 4 L | ClCCl | CH2Cl2
solvent | methanol | 3 L | CO | CH4O
solvent | triethyl amine | 778 g | C(C)N(CC)CC | C6H15N
product | 4-(3-{5-Chloro-2-[2-(1,3-dioxo-1,3-dihydro-isoindol-2-yl)-ethyl]-1H-indol-3-yl}-propyl)-benzoic Acid Ethyl Ester | 313 g, 50% yield | C(C)OC(C1=CC=C(C=C1)CCCC1=C(NC2=CC=C(C=C12)Cl)CCN1C(C2=CC=CC=C2C1=O)=O)=O | C30H27ClN2O4
